US04115398
A solution of 0.45 gram of p-methoxycinnamyl chloride and 0.62 gram of isoindoline in 20 milliliters of ethanol is stirred overnight at room temperature. After completion of the reaction, the reaction mixture is concentrated. Chloroform is then added to the residue, and the insolubles are filtered off. The subsequent operations are carried out as in Example 13 to obtain 0.17 gram (yield 37.7%) of N-(p-methoxycinnamyl)-isoindoline hydrochloride as crystals having a melting point of 201°-202° C. (decomposition).

reactant | p-methoxycinnamyl chloride | 0.45 gram | COC1=CC=C(C=CCCl)C=C1 | C10H11ClO
reactant | isoindoline | 0.62 gram | C1NCC2=CC=CC=C12 | C8H9N
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
product | N-(p-methoxycinnamyl)-isoindoline hydrochloride | 0.17 gram, yield 37.7% | Cl.COC1=CC=C(C=CCN2CC3=CC=CC=C3C2)C=C1 | InChI=1S/C18H19NO.ClH/c1-20-18-10-8-15(9-11-18)5-4-12-19-13-16-6-2-3-7-17(16)14-19;/h2-11H,12-14H2,1H3;1H
